US05998424
1-[(4-Methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-1H-pyrazole-5-(2-furyl)pyrazole
To a solution of 2-furoylacetonitrile (0.91 g, 6.73 mmol) in 20 mL of absolute ethanol was added sodium ethoxide (2.5 mL of a 21% weight solution in ethanol, 6.73 mmol) followed by 2, 2, 2-trifluoroacetoyl bromide-N-(4-methoxyphenyl)hydrazone (2.0 g, 6.73 mmol). This mixture was stirred at ambient temperature for 4 h. The volatiles were removed in vacuo and the residue was dissolved in ethyl acetate, washed with water and brine, dried (MgSO4) and concentrated. The residue was purified by recrystallization from hexane/ethyl acetate to afford 1.1 g (49%) of the title compound.

reactant | 2-furoylacetonitrile | 6.73 mmol, 0.91 g | O1C(=CC=C1)C(=O)CC#N | C7H5NO2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 2, 2, 2-trifluoroacetoyl bromide-N-(4-methoxyphenyl)hydrazone | 6.73 mmol, 2.0 g | COC1=CC=C(C=C1)NN=C(C(F)(F)F)Br | C9H8BrF3N2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 1-[(4-Methoxy)phenyl]-3-(trifluoromethyl)-4-cyano-1H-pyrazole 5-(2-furyl)pyrazole | 1.1 g, 49% | COC1=CC=C(C=C1)N1N=C(C(=C1)C#N)C(F)(F)F.O1C(=CC=C1)C1=CC=NN1 | InChI=1S/C12H8F3N3O.C7H6N2O/c1-19-10-4-2-9(3-5-10)18-7-8(6-16)11(17-18)12(13,14)15;1-2-7(10-5-1)6-3-4-8-9-6/h2-5,7H,1H3;1-5H,(H,8,9)
